US09340555B2
A mixture of N-(2-fluoro-5-methylphenyl)-3-hydroxybenzamide (270 mg, 1.1 mmol), methyl 7-chlorothieno[3,2-b]pyridine-2-carboxylate (300 mg, 1.3 mmol) and cesium carbonate (1.0 g, 3.07 mmol) in 10 ml of anhydrous DMSO was heated at 68° C. for 16 hours, cooled to room temperature and partitioned between water (100 ml) and EtOAc (100 ml). The aqueous layer was extracted with more EtOAc (2×50 ml). All the organic layers were combined, washed with brine (50 ml), dried over Na2SO4, and evaporated to dryness to give the crude, which was purified by silica gel chromatography eluted with 1˜2% of MeOH in CHCl3 to give methyl 7-(3-((2-fluoro-5-methylphenyl)carbamoyl)phenoxy)thieno[3,2-b]pyridine-2-carboxylate as light brown oil. Yield: 170 mg, 37%.

reactant | N-(2-fluoro-5-methylphenyl)-3-hydroxybenzamide | 1.1 mmol, 270 mg | FC1=C(C=C(C=C1)C)NC(C1=CC(=CC=C1)O)=O | C14H12FNO2
reactant | methyl 7-chlorothieno[3,2-b]pyridine-2-carboxylate | 1.3 mmol, 300 mg | ClC1=C2C(=NC=C1)C=C(S2)C(=O)OC | C9H6ClNO2S
reactant | cesium carbonate | 3.07 mmol, 1.0 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DMSO | 10 ml | CS(=O)C | C2H6OS
product | methyl 7-(3-((2-fluoro-5-methylphenyl)carbamoyl)phenoxy)thieno[3,2-b]pyridine-2-carboxylate | FC1=C(C=C(C=C1)C)NC(=O)C=1C=C(OC2=C3C(=NC=C2)C=C(S3)C(=O)OC)C=CC1 | C23H17FN2O4S
